US05665718
1.13 g (3 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature overnight with 2 g (17.7 mmol) of 3,3-dimethylpiperidine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 1.34 g (98%) of (S)-8-chloro-1-[5-(3,3-dimethyl-piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3 mmol, 1.13 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | 3,3-dimethylpiperidine | 17.7 mmol, 2 g | CC1(CNCCC1)C | C7H15N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-[5-(3,3-dimethyl-piperidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.34 g, 98% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN3CC(CCC3)(C)C)CC1)=O | C23H25ClN6O2
